US06194425B1
A suspension of tetrazolo[1,5-a][1,7]naphthyridin-5-ol (3.5 g) in phosphorous oxychloride (15 mL) was heated at 90° C. for 2 hours. The reaction mixture was concentrated under vacuum. The residue was poured into ice water, dichloromethane was added followed by the addition of 10% sodium hydroxide to neutral pH. The product was partitioned into dichloromethane. The dichloromethane layer was separated, dried over magnesium sulfate then concentrated under vacuum to provide 3.8 g of 5-chlorotetrazolo[1,5-a][1,7]naphthyridine as a solid, m.p. 176-177° C. Analysis: Calculated for C8H4ClN5: % C, 46.73; % H, 1.96; % N, 34.06; Found: % C, 46.80; % H, 2.16; % N, 34.45.

reactant | tetrazolo[1,5-a][1,7]naphthyridin-5-ol | 3.5 g | N1=NN=C2N1C1=CN=CC=C1C(=C2)O | C8H5N5O
reactant | phosphorous oxychloride | 15 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-chlorotetrazolo[1,5-a][1,7]naphthyridine | 3.8 g | ClC1=CC=2N(C3=CN=CC=C13)N=NN2 | C8H4ClN5
